US07125896B2
c) 4-[(1,2,5-Thiadiazol-3-yl)methoxy]phenyl acetone
Prepared from 3-bromomethyl-1,2,5-thiadiazole and 4-hydroxyphenylacetone by the method of Example 1.

reactant | 3-bromomethyl-1,2,5-thiadiazole | BrCC1=NSN=C1 | C3H3BrN2S
reactant | 4-hydroxyphenylacetone | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
product | 4-[(1,2,5-Thiadiazol-3-yl)methoxy]phenyl acetone | S1N=C(C=N1)COC1=CC=C(C=C1)CC(C)=O | C12H12N2O2S
